US07112593B2
a) 2-Bromo-6-(3,3-ethylenedioxypyrrolidin-1-yl)pyridine
Then, to a solution of 2.8 ml of oxalyl chloride in 100 ml of dichloromethane were added dropwise 4.6 ml of dimethyl sulfoxide in a dry ice-acetone bath while stirring, a solution of 5.9 g of the 2-bromo-6-(3-hydroxypyrrolidin-1-yl)pyridine in 50 ml of dichloromethane and finally 17 ml of triethylamine, and the temperature was returned to room temperature over 1 hour. The reaction mixture was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated. To the residue were added 50 ml of toluene, 7 ml of ethylene glycol and a catalytic amount of p-toluenesulfonic acid monohydrate, followed by heating under reflux for 3 hours while removing water. After cooling, it was washed with a saturated aqueous sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography with 5–7% ethyl acetate/hexane, to give 6.3 g of the title compound.

reactant | oxalyl chloride | 2.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 4.6 ml | CS(=O)C | C2H6OS
reactant | 2-bromo-6-(3-hydroxypyrrolidin-1-yl)pyridine | 5.9 g | BrC1=NC(=CC=C1)N1CC(CC1)O | C9H11BrN2O
reactant | triethylamine | 17 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Bromo-6-(3,3-ethylenedioxypyrrolidin-1-yl)pyridine | 6.3 g | BrC1=NC(=CC=C1)N1CC2(CC1)OCCO2 | C11H13BrN2O2
